US06677351B2
To a suspension of 2,5-dibromopyridine in toluene (5 ml/mmol) at −78° C., was added n-butyllithium 2.5M in hexanes (1 eq) and the resulting mixture was stirred in the cold for 2.5 hours. Acetone (1 eq) was added, and the mixture was warmed to −50° C. and became a brown solution. After cooling down to −78° C., more n-butyllithium (1 eq) was added along with ether (2 ml/mmol). After stirring in the cold for a further hour, tributyltin chloride (1.1 eq) was added and the mixture was warmed to room temperature and stirred for 2 hours. The mixture was quenched with saturated aqueous ammonium chloride solution and partitioned between ethyl acetate and water. The crude product from the organic phase was chromatographed on silica gel eluting with a 1:9 mixture of ethyl acetate and hexane to afford the 2-(1-hydroxy-1-methylethyl)-5-tributylstannylpyridine compound as a colorless liquid.

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | Acetone | 1 eq | CC(=O)C | C3H6O
reactant | n-butyllithium | 1 eq | C(CCC)[Li]
reactant | tributyltin chloride | 1.1 eq | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 2-(1-hydroxy-1-methylethyl)-5-tributylstannylpyridine | OC(C)(C)C1=NC=C(C=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C8H10NO.3C4H9.Sn/c1-8(2,10)7-5-3-4-6-9-7;3*1-3-4-2;/h3,5-6,10H,1-2H3;3*1,3-4H2,2H3;
